US08703103B2
Synthesis of 2,2,5,5-Tetramethyl-3-hexanone
2-chloro-2-methylpropane (75 g, 0.8 mol) was slowly added to magnesium pellets (19.5 g, 0.8 mol) in 800 mL of THF to make the Grignard reagent, tBuMgCl. This was added slowly to a mixture of cuprous chloride (49.5 g, 0.50 mol) and tertbutylacetylchloride (67.25 g, 0.50 mol), cooled to −50° C. in dry ice. After addition, the mixture was allowed to warm up to room temperature overnight. Most of the THF was removed by decreased pressure, followed by the addition of 500 mL of hexanes and 200 mL of 2M HCl. This mixture was filtered to remove the solid byproducts. The aqueous layer was washed 3× with 100 mL of hexanes, the hexanes layer washed 3× with 200 mL of 2M HCl, 2× with 200 mL of NaHCO3/water, 1× with 200 mL of water, and finally 1× with 200 mL of NaCl/water. The product mixture was then dried for an hour in MgSO4, which was subsequently removed by filtration. The hexane was then removed by atmospheric distillation.

reactant | 2-chloro-2-methylpropane | 0.8 mol, 75 g | ClC(C)(C)C | C4H9Cl
reactant | magnesium | [Mg] | Mg
reactant | tBuMgCl | C(C)(C)(C)[Mg]Cl
reactant | tertbutylacetylchloride | 0.50 mol, 67.25 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | dry ice | C(=O)=O | CO2
product | 2,2,5,5-Tetramethyl-3-hexanone | CC(C)(C(CC(C)(C)C)=O)C | C10H20O
